US05112862
2-(2-Methylbenzyloxy)-acetophenone
102 g (0.75 mol) of 2-hydroxyacetophenone and 102 g (0.75 mol) of potassium carbonate in 500 ml of absolute ethanol are initially taken. 139 g (0.75 mol) of 2-methylbenzyl bromide are added dropwise and the mixture is refluxed for 10 h. The mixture is cooled and filtered under suction, after which the filtrate is evaporated down. The crude product is recrystallized from diethyl ether. 106 g (59%) of product are obtained as crystals (mp.=53°-55° C.).

reactant | 2-hydroxyacetophenone | 0.75 mol, 102 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | potassium carbonate | 0.75 mol, 102 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylbenzyl bromide | 0.75 mol, 139 g | CC1=C(CBr)C=CC=C1 | C8H9Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(2-Methylbenzyloxy)-acetophenone | 106 g, 59% | CC1=C(COCC(=O)C2=CC=CC=C2)C=CC=C1 | C16H16O2
